US04968340
Preparation of 2-(4,6-dimethoxy-S-triazin-2-yl)thio-2-cyclopentyl acetic acid (Compound No. 343)
To a mixture solution of 6.0 g of 2-mercapto-2-cyclopentyl acetic acid, 4.2 g of potassium hydroxide and 50 ml of water, a solution of 30 ml of acetone and 6.6 g of 2-chloro-4,6-dimethoxy S-triazine was added at a temperature of from 0° to 5° C. for 20 mimutes. Then, the reaction mixture was stirred at room temperature for 1.5 hours. Acetone was removed by distillation under reduced pressure, and the residue was extracted with ethyl ether. The ethyl ether layer was removed, and the aqueous layer was adjsuted to pH 2 to 3 with a 5% hydrochloric acid aqueous solution and extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried. Then, ethyl acetate was removed by distillation under reduced pressure to obtain a white solid. The solid was recrystallized from isopropyl ether and n-hexane to obtain 4.5 g of the desired product.

reactant | 2-mercapto-2-cyclopentyl acetic acid | 6.0 g | SC(C(=O)O)C1CCCC1 | C7H12O2S
reactant | potassium hydroxide | 4.2 g | [OH-].[K+]
reactant | water | 50 ml | O | H2O
reactant | 2-chloro-4,6-dimethoxy S-triazine | 6.6 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(4,6-dimethoxy-S-triazin-2-yl)thio-2-cyclopentyl acetic acid | 4.5 g | COC1=NC(=NC(=N1)OC)SC(C(=O)O)C1CCCC1 | C12H17N3O4S
